US08703953B2
To a stirred solution of N-(5-bromo-4-chloropyridin-2-yl)acetamide (7 g, 28.1 mmol), 2,4,6-trivinyl-1,3,5,2,4,6-trioxatriborinane complex with pyridine (1:1) (8.78 g, 36.5 mmol), and sodium carbonate (5.95 g, 56.1 mmol) solution in 7 mL of water in a mixture of toluene (50 mL) and ethanol (8 mL), was added Pd(PPh3)4 (0.973 g, 0.842 mmol). The solution was purged with nitrogen gas was bubbled for 5 min then heated at 85° C. for 14 h. The reaction was cooled to room temperature and was diluted with ethyl acetate (50 mL) ten filtered through a bed of celite. The filtrate was diluted with water and the organic layer was separated, washed with brine, dried over sodium sulphate. The organics were concentrated under reduced pressure and residue was purified by silica gel column chromatography using a gradient of ethyl acetate in hexanes. Product eluted at 30% ethyl acetate in hexane and required fractions were concentrated to yield N-(4-chloro-5-vinylpyridin-2-yl)acetamide (5.92 g, 27.7 mmol, 99% yield) as yellow solid. LCMS (ESI) m/e 197.2 [(M+H)+, calcd for C9H10ClN2O 197.04] LC/MS retention time (method A): tR=1.50 min; 1H NMR (400 MHz, DMSO-d6) δ 10.79 (s, 1H), 8.64 (s, 1H), 8.18 (d, J=6.40 Hz, 1H), 6.88 (dd, J=11.2, 17.6 Hz, 1H), 5.99 (dd, J=17.60, 0.80 Hz, 1H), 5.47 (dd, J=11.40, 0.80 Hz, 1H), 2.12 (s, 3H).

reactant | N-(5-bromo-4-chloropyridin-2-yl)acetamide | 28.1 mmol, 7 g | BrC=1C(=CC(=NC1)NC(C)=O)Cl | C7H6BrClN2O
reactant | pyridine | 36.5 mmol, 8.78 g | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | 56.1 mmol, 5.95 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 7 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 8 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.842 mmol, 0.973 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-chloro-5-vinylpyridin-2-yl)acetamide | 27.7 mmol, 5.92 g, 99% yield | ClC1=CC(=NC=C1C=C)NC(C)=O | C9H9ClN2O
